US04698352
In a mixture of 10 ml of dioxane and 5 ml of water was dissolved 0.15 g of 6-(4-benzyloxycarbonylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid, and 0.03 g of 5% by weight palladium carbon was added. The above acid was hydrogenated under atmospheric pressure for 3 hours. The catalyst was removed by filtration and the solvent was then removed by distillation under reduced pressure. To the residue was added 3 ml of diethyl ether, and the precipitated crystals were collected by filtration and washed with 3 ml of diethyl ether to obtain 0.095 g of 6-(4-aminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 237°-250° C. (decomp.).

reactant | 6-(4-benzyloxycarbonylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid | 0.15 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)C=1N(C=C(C(=O)O)C(C1)=O)C1=C(C=C(C=C1)O)C | C27H28N2O6
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
catalyst | palladium carbon | [C].[Pd]
product | 6-(4-aminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid | 0.095 g | NC1CCC(CC1)C=1N(C=C(C(=O)O)C(C1)=O)C1=C(C=C(C=C1)O)C | C19H22N2O4
